US06548494B1
(E)-5-Methyl-6-(5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-9-yl)-hex-5-enoic Acid Methyl Ester
Palladium chloride (0.418 mmol, 0.074 g) was added to a solution of 6-(5-Oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-9-yl)-hex-5-ynoic acid methyl ester (8.36 mmol, 2.39 g) in 50 mL CH3CN. The reaction mixture was heated at 70-80° C. for 2.5 h. The solvent was removed and the residue was purified by flash silica gel chromatography eluting with a gradient of 0-5% MeOH in EtOAc to give 2.11 g (88%) of a yellow solid: mp=175-176° C.; 1H NMR (DMSO-d6) δ 1.86-1.98 (m, 2H), 2.43 (t, 2H, J=6.0 Hz), 2.75 (t, 2H, J=6.0 Hz), 3.52-3.54 (m, 2H), 3.57 (s, 3H), 4.21 (br s, 2H), 6.34 (s, 1H), 7.07 (t, 1H, J=6.0 Hz), 7.65 (d, 1H, J=6.0 Hz), 7.75 (d, 1H, J=6.0 Hz), 8.23 (t, 1H, J=6.0 Hz); HRMS calcd. for C16H18N2O3 (M+) 286.1317, found (M+) 286.1310; Anal. C16H18N2O3.0.25H2O) C, H, N.

reactant | 6-(5-Oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-9-yl)-hex-5-ynoic acid methyl ester | 8.36 mmol, 2.39 g | COC(CCCC#CC1=CC=CC2=C1NCCNC2=O)=O | C16H18N2O3
reactant | CH3CN | 50 mL | CC#N | C2H3N
catalyst | Palladium chloride | 0.418 mmol, 0.074 g | [Pd](Cl)Cl
product | (E)-5-Methyl-6-(5-oxo-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepin-9-yl)-hex-5-enoic Acid Methyl Ester | 2.11 g, 88% | COC(CCC\C(=C\C1=CC=CC2=C1NCCNC2=O)\C)=O | C17H22N2O3
